US06960664B2
N-{(1S,2R)-1-benzyl-3-[1-ethyl-2-(4-methylpentanoyl)hydrazino]-2-hydroxypropyl}-2-[(methylsulfonyl)amino]-1,3-thiazole-4-carboxamide:
Synthesized as described above from tert-butyl 2-((2R,3S)-3-amino-2-hydroxy-4-phenylbutyl)-2-ethylhydrazinecarboxylate, 4-methylpentanoic acid and 2-methanesulfonylamino-thiazole-4-carboxylic acid. MS (ESI+) for C23H35N5O5S2 m/z 526.7 (M+H)+.

reactant | tert-butyl 2-((2R,3S)-3-amino-2-hydroxy-4-phenylbutyl)-2-ethylhydrazinecarboxylate | N[C@H]([C@@H](CN(NC(=O)OC(C)(C)C)CC)O)CC1=CC=CC=C1 | C17H29N3O3
reactant | 4-methylpentanoic acid | CC(CCC(=O)O)C | C6H12O2
reactant | 2-methanesulfonylamino-thiazole-4-carboxylic acid | CS(=O)(=O)NC=1SC=C(N1)C(=O)O | C5H6N2O4S2
product | N-{(1S,2R)-1-benzyl-3-[1-ethyl-2-(4-methylpentanoyl)hydrazino]-2-hydroxypropyl}-2-[(methylsulfonyl)amino]-1,3-thiazole-4-carboxamide | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(NC(CCC(C)C)=O)CC)O)NC(=O)C=1N=C(SC1)NS(=O)(=O)C | C23H35N5O5S2
